US03950376
To a solution of 3-mercapto-4-phenoxy-5-sulfamylbenzoic acid (1.6 g) in diethylene glycol diethyl ether (15 ml), anhydrous potassium carbonate (0.5 g) and trimethylfurfurylammonium iodide (2 g) were added. The resulting mixture is stirred at 110° C. for 4 hours, cooled and poured into 0.3 N sodium hydroxide (75 ml). After extraction twice with diethyl ether, the aqueous layer is adjusted to pH 3 by addition of acetic acid. The reaction product is extracted with ethyl acetate, and the resulting organic solution is evaporated in vacuo. The residue is triturated with aqueous acetone giving rise to crystallisation. The 3-(2-furylmethylthio)-4-phenoxy-5-sulfamylbenzoic acid thus obtained is recrystallized from aqueous ethanol and dried. The compound is obtained with a melting point of 214°-216° C.

reactant | 3-mercapto-4-phenoxy-5-sulfamylbenzoic acid | 1.6 g | SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H11NO5S2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylfurfurylammonium iodide | 2 g | [I-].C[N+](CC1=CC=CO1)(C)C
reactant | sodium hydroxide | 0.3 N, 75 ml | [OH-].[Na+]
solvent | diethylene glycol diethyl ether | 15 ml | C(C)OCCOCCOCC | C8H18O3
product | 3-(2-furylmethylthio)-4-phenoxy-5-sulfamylbenzoic acid | O1C(=CC=C1)CSC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C18H15NO6S2
